US04792560
A. N,O-Dibenzylhydroxylamine
A mixture of 4 g of O-benzylhydroxylamine, 4.28 g of benzyl bromide, and 12 g of K2CO3 in 50 ml of ethanol was stirred at 50° C. overnight. After removal of organic solvent, water was added to the residue and the mixture was then extracted with ethyl acetate. The combined extracts were dried and evaporated to give 4 g of crude product. Purification by dry column chromatography gave 1.8 g of oily product.

reactant | O-benzylhydroxylamine | 4 g | C(C1=CC=CC=C1)ON | C7H9NO
reactant | benzyl bromide | 4.28 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 12 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N,O-Dibenzylhydroxylamine | 1.8 g | C(C1=CC=CC=C1)NOCC1=CC=CC=C1 | C14H15NO
